### PR TITLE
feat: topological characterization of safety and liveness properties of infinite sequences

### PR DESCRIPTION
**Pull request by ctchou**
This PR formalizes some results in the following classic paper:

Alpern, Bowen; Schneider, Fred B. (1985). "Defining liveness". Information Processing Letters. 21 (4): 181–185.

To wit:
* By viewing an infinite sequence as an infinite product, we define a topology on infinite sequences using the product topology.
* We identify safety and liveness properties with closed and dense sets in this topology and justify these identifications.
* We prove that every property is the intersection of a safety property and a liveness property and give explicit formulas for both.

Zulip discussion: [#CSLib: PR reviews > #704: Topological characterization of safety and liveness](https://leanprover.zulipchat.com/#narrow/channel/605128-CSLib.3A-PR-reviews/topic/.23704.3A.20Topological.20characterization.20of.20safety.20and.20liveness/with/609302284)

### CODE REVIEW

File: Cslib/Foundations/Data/OmegaSequence/Topology.lean [hunk 1]
```diff
@@ -0,0 +1,130 @@
...
+namespace Cslib.ωSequence
+
+open Set Homeomorph TopologicalSpace ωSequence
+
+variable {α : Type*}
+
+/-- Define the topology on `ωSequence α` using an equivalence from it to the product topology
+`ℕ → WithDiscreteTopology α`. -/
+instance : TopologicalSpace (ωSequence α) :=
+  haveI eqv : ωSequence α ≃ (ℕ → WithDiscreteTopology α) := {
```
Comment (thomaskwaring) [inline Cslib/Foundations/Data/OmegaSequence/Topology.lean:33]: maybe the fact that `ωSequence α ≃ ℕ → α` can be split out (sorry if that already exists) so that this follows from `α ≃ WithDiscreteTopology α` and a congruence lemma for `Equiv` (EDIT: the latter equiv doesn't exist in mathlib so ignore this comment until such a time as it does)

File: Cslib/Foundations/Data/OmegaSequence/Topology.lean [hunk 2]
```diff
@@ -0,0 +1,130 @@
...
+    cylinder_eq_prepend_range, mem_ofPred_eq, ↓existsAndEq, mem_range, true_and]
+  constructor <;> intro h xs hxs
+  · obtain ⟨_, n, ⟨_, rfl⟩, _⟩ := h xs hxs
+    use n
+    grind [take_append_of_le_length]
+  · obtain ⟨n, _⟩ := h xs hxs
+    use xs, n, ⟨xs.drop n, ?_⟩ <;> grind
+
+/-- A set is dense iff any finite sequence can be extended to an infinite sequence in the set. -/
+theorem Dense_iff (s : Set (ωSequence α)) :
```
Comment (thomaskwaring) [inline Cslib/Foundations/Data/OmegaSequence/Topology.lean]:
```suggestion
theorem dense_iff (s : Set (ωSequence α)) :
```

File: Cslib/Computability/Languages/SafetyLiveness.lean [hunk 3]
```diff
@@ -0,0 +1,68 @@
...
+
+/-- An alternative characterization of `IsLiveness` that justifies its definition:
+any finite sequence can be extended to an infinite sequence satisfying a liveness property. -/
+theorem isLiveness_iff (p : ωLanguage α) :
+    p.IsLiveness ↔ ∀ (xs : ωSequence α) (n : ℕ), ∃ ys, (xs.take n) ++ω ys ∈ p := by
+  exact Dense_iff p.toSet
+
+/-- `SafetyLivenessDecomposition p ps pl` means that `ps` is a safety property,
+`pl` is a liveness property, and `ps ⊓ pl = p`. -/
+def SafetyLivenessDecomposition (p ps pl : ωLanguage α) : Prop :=
```
Comment (thomaskwaring) [inline Cslib/Computability/Languages/SafetyLiveness.lean]: do you expect this definition to be used elsewhere? eg as an input to a theorem / construction

File: Cslib/Computability/Languages/SafetyLiveness.lean [hunk 4]
```diff
@@ -0,0 +1,68 @@
...
+  IsSafety ps ∧ IsLiveness pl ∧ ps ⊓ pl = p
+
+/-- Every property `p` is the intersection of the safety property `p.closure` and
+the liveness property `p ⊔ p.closureᶜ`. -/
+theorem SafetyLivenessDecomposition_exists (p : ωLanguage α) :
```
Comment (thomaskwaring) [inline Cslib/Computability/Languages/SafetyLiveness.lean]:
```suggestion
theorem exists_safetyLivenessDecomposition (p : ωLanguage α) :
```
i believe this is the naming convention

**Review by thomaskwaring — COMMENTED** [review]
this mostly looks good to me! the results are very nice.

personally, i would prefer to avoid the definition `SafetyLivenessDecomposition` unless it is expected to be used elsewhere. i also think results characterising the parts of the definition in the theorem would be nice either way, eg:
```
theorem isSafety_closure (p : ωLanguage α) : p.closure.IsSafety := sorry

theorem isLiveness_sup_compl_closure (p : ωLanguage α) : (p ⊔ p.closureᶜ).IsLiveness := sorry
```
and in the presence of these, you could have a lemma saying `p = p.closure ⊓ (p ⊔ p.closureᶜ)`, and replace `exists_safetyLivenessDecomposition` with an existence statement:
```
theorem exists_safetyLivenessDecomposition (p : ωLanguage α) : ∃ q r : ωLanguage α, q.IsSafety ∧ r.IsLiveness ∧ p = q ⊓ r := sorry
```
That being said I don't feel strongly on this and I'm happy to defer to your and other reviewers' preferences.

As I mentioned on Zulip, I think the results of `ClosedDenseDecomposition` can be inlined — the results are not explicitly used in any statements or definitions (ie they are not user-facing) and the proof of `SafetyLivenessDecomposition_exists` would not be made longer by omitting the import. I see your point about emphasising the topological fact as independent of the space in question, but I'm not sure the current design actually shows that off — maybe a note in the docstring would be better.

Finally, I think the proofs in `OmegaSequence/Topology` are good as they are, but it does feel like they ought to be able to be golfed. (In particular, why doesn't mathlib have a result saying you can pull back a topological basis along a homeomorphism??) If you agree I am happy to try, but I have no problem with them being merged as is.

Excuse the essay-length review, on the whole I think the PR is great :)

**Comment by ctchou** [comment]
@thomaskwaring  I have followed your suggestion and removed the definition `SafetyLivenessDecomposition` and the file `Data/Topology/ClosedDenseDecomposition.lean`.  Do you want to do the golfing in `OmegaSequence/Topology`, now that you've found the support in mathlib?
[#Is there code for X? > Transporting topological bases](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Transporting.20topological.20bases/with/616364252)

**Review by thomaskwaring — APPROVED** [review]
Great, thanks! I will try to work on those golfs tomorrow, but for now I'll approve — I don't think it warrants stalling the PR any further.

File: Cslib/Foundations/Data/OmegaSequence/Topology.lean [hunk 5]
```diff
@@ -0,0 +1,130 @@
...
+  split_ands
+  · exact mem_preimage.mp hmm
+  · exact preimage_subset hss <| injOn_of_injective <| Homeomorph.injective homeomorph
+
+/-- The cylinders form a topological basis. -/
+theorem isTopologicalBasis_cylinders :
+    IsTopologicalBasis { s | ∃ (xs : ωSequence α) (n : ℕ), s = xs.cylinder n } := by
+  apply isTopologicalBasis_of_isOpen_of_nhds
+  · grind [isOpen_cylinder]
+  · grind [nhds_cylinders]
```
Comment (thomaskwaring) [inline Cslib/Foundations/Data/OmegaSequence/Topology.lean]:
```suggestion
/-- The cylinders form a topological basis. -/
theorem isTopologicalBasis_cylinders :
    IsTopologicalBasis { s | ∃ (xs : ωSequence α) (n : ℕ), s = xs.cylinder n } := by
  convert (PiNat.isTopologicalBasis_cylinders _).isInducing homeomorph.isInducing
  ext
  constructor
  · grind [cylinder]
  · rintro ⟨_, ⟨xs, n, rfl⟩, rfl⟩
    use (discharger := rfl) homeomorph.symm xs, n

/-- All cylinders are open sets. -/
theorem isOpen_cylinder (xs : ωSequence α) (n : ℕ) :
    IsOpen (xs.cylinder n) := homeomorph.continuous.isOpen_preimage _ (PiNat.isOpen_cylinder ..)

/-- Every ω-sequence in an open set belongs to a cylinder which is contained in the set. -/
theorem nhds_cylinders {xs : ωSequence α} {s : Set (ωSequence α)} (hx : xs ∈ s) (hs : IsOpen s) :
    ∃ (ys : ωSequence α) (n : ℕ), xs ∈ ys.cylinder n ∧ ys.cylinder n ⊆ s := by
  obtain ⟨_, ⟨ys, n, rfl⟩, hx', hy⟩:= isTopologicalBasis_cylinders.exists_subset_of_mem_open hx hs
  use ys, n
```

**Review by chenson2018 — APPROVED** [review]
I've not read this, but approving to unblock merging since another reviewer has approved. You should be able to add to the queue yourself.

(We'll likely update the CODEOWNERS policy soon to make this a bit easier, but please do ping me in the meantime if something gets stuck when one reviewer has already approved)

**Comment by chenson2018** [comment]
Network flakiness I think, added back to the queue.

**Comment by ctchou** [comment]
@thomaskwaring  Thanks for the golfing!
@chenson2018  Thanks for taking care of the merge problem!
